US07300951B2
To (2R)-4,4,4-trifluoro-2-methylbutan-1-ol (2.90 g, 20.4 mmol) in CH2Cl2 (50 mL) at 0° C. was added Dess-Martin periodinane (10.24 g, 24.49 mmol). After 15 min, the reaction mixture was warmed to 25° C. and stirred for 1 h. This mixture was then diluted with diethyl ether (50 mL) and added to Na2S2O3 (11.29 g, 71.44 mmol) dissolved in a saturated solution of aqueous NaHCO3 (100 mL). The milky white mixture was stirred until both layers were homogeneous. The phases were separated and the organic extract was dried (MgSO4) and filtered to give a solution of (2R)-4,4,4-trifluoro-2-methylbutanal which was used in the next step without removal of solvents.

reactant | (2R)-4,4,4-trifluoro-2-methylbutan-1-ol | 20.4 mmol, 2.90 g | FC(C[C@H](CO)C)(F)F | C5H9F3O
reactant | Dess-Martin periodinane | 24.49 mmol, 10.24 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 | 71.44 mmol, 11.29 g | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
product | (2R)-4,4,4-trifluoro-2-methylbutanal | FC(C[C@H](C=O)C)(F)F | C5H7F3O
